US04708955
Acetoxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-butenyl]-3-cephem-4-carboxylate (Ib. R2 =CH3, R3 =CH3, R4 =CH2OCOCH3, Z isomer)
To a mixture of 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-butenyl]-3-cephem-4-carboxylic acid (300 mg, 0.69 m mole) and K2CO3 (95 mg, 0.69 m mole) in dry DMF (3 ml) was added dropwise at 0° C. a solution of bromomethyl acetate (105 mg, 0.69 m mole) in dry DMF (0.25 ml) and the mixture was stirred at 0° C. for 15 minutes. To the mixture was added again a solution of bromomethyl acetate (105 mg, 0.69 m mole) in dry DMF (0.25 ml). The reaction mixture was stirred for another 30 minutes and diluted with ethyl acetate (20 ml). The dilute was washed with water and a saturated NaCl solution, dried over anhydrous Na2SO4 and evaporated to dryness. The residue was dissolved in methanol and passed through a column of the packing (40 ml) of a PrepPAK cartridge (Waters), which was washed with water and then eluted with 50% methanol. The eluate was monitored by HPLC. The desired fractions were collected and evaporated to give 96 mg (27%) of the title compound. Estimated purity 90% (by HPLC). M.p. 149°-152° C.

reactant | 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-butenyl]-3-cephem-4-carboxylic acid | 300 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/CC)C(=O)O)C1=O)=N/OC | C17H19N5O5S2
reactant | K2CO3 | 95 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | bromomethyl acetate | 105 mg | C(C)(=O)OCBr | C3H5BrO2
reactant | bromomethyl acetate | 105 mg | C(C)(=O)OCBr | C3H5BrO2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.25 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | Acetoxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-butenyl]-3-cephem-4-carboxylate | 96 mg, 27% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/CC)C(=O)OCOC(C)=O)C1=O)=N/OC | C20H23N5O7S2
